US06939887B2
Synthesis of ethyl 4-chlorobenzylcarbamate
4-Chlorobenzylamine (1.0556 g) was dissolved in pyridine (5 ml), and to the solution was added dropwise ethyl chloroformate.(0.855 ml) during 5 minutes under ice-cooling. After the mixture was stirred for 3 hours, 1N hydrochloric acid was added and the mixture was extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, saturated aqueous sodium bicarbonate solution, and then saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title compound (1.562 g, 98%).

reactant | 4-Chlorobenzylamine | 1.0556 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 4-chlorobenzylcarbamate | 1.562 g, 98% | ClC1=CC=C(CNC(OCC)=O)C=C1 | C10H12ClNO2
